US07071340B2
0.072 ml (1.1 equivalents) of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone and then 0.6 ml (1.1 equivalents) of 1.06M lithium bis(trimethylsilyl)amide in tetrahydrofuran are added at ambient temperature to 195 mg (0.55 mmol) of methyl 3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate, prepared according to example 1, in solution in 5 ml of tetrahydrofuran. The reaction medium then assumes a dark yellow color. After stirring for 15 minutes, 0.073 ml (1.1 equivalents) of benzyl bromide is added. After stirring for 5 minutes, water, 1N hydrochloric acid and dichloromethane are added. After separating the organic and aqueous phases, the aqueous phase is extracted three times with dichloromethane. The combined organic phases are washed with brine, are dried and are finally concentrated under vacuum. The crude reaction product is then purified by chromatography on silica gel (ethyl acetate/heptane 25/75) to provide 211 mg (86%) of methyl 5-benzyl-3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate in the form of a white solid; M.p.=164–165° C.

reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.072 ml, 1.1 equivalents | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | lithium bis(trimethylsilyl)amide | 1.06M, 0.6 ml, 1.1 equivalents | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate | 0.55 mmol | C=C1COC2=C(C(C1)S(=O)(=O)C1=CC=CC=C1)C=C(C=C2)C(=O)OC | C19H18O5S
reactant | benzyl bromide | 0.073 ml, 1.1 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 5-benzyl-3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate | 211 mg, 86% | C(C1=CC=CC=C1)C1(CC(COC2=C1C=C(C=C2)C(=O)OC)=C)S(=O)(=O)C2=CC=CC=C2 | C26H24O5S
